US07635741B2
B. Synthesis of 1,3-bis(4-phenylethynylphenyl)-2-propanone
In a 250 ml flask was placed 18.4 grams (0.05 mole) of 1,3-bis-(4-bromophenylphenyl)-2-propanone, 24 grams (0.24 mole) of triethylamine, 12 grams (0.12 mole) of phenylacetylene, and 60 milliliters of N,N-dimethylformamide. The reaction mixture was purged with nitrogen for 15 minutes then 0.60 gram (0.0023 mole) of triphenylphosphine and 0.08 gram (0.00036 mole) of palladium acetate were added. After heating the reaction mixture at 80° C. under a nitrogen atmosphere for 20 hours, the flask was allowed to cool to room temperature, then water (200 milliliters) and toluene (200 milliliters) were added. The resulting organic layer was washed with 10% aqueous HCl, water and saturated aqueous NaCl then dried over anhydrous Na2SO4. The pure product (14.5 grams) was obtained upon removal of the toluene and recrystallization from toluene/hexanes in 71% isolated yield.

reactant | 1,3-bis-(4-bromophenylphenyl)-2-propanone | 0.05 mole, 18.4 grams | BrC1=CC=C(C=C1)C1=C(C=CC=C1)CC(CC1=C(C=CC=C1)C1=CC=C(C=C1)Br)=O | C27H20Br2O
reactant | triethylamine | 0.24 mole, 24 grams | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 0.12 mole, 12 grams | C1(=CC=CC=C1)C#C | C8H6
reactant | N,N-dimethylformamide | 60 milliliters | CN(C=O)C | C3H7NO
reactant | toluene | 200 milliliters | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.00036 mole, 0.08 gram | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.0023 mole, 0.60 gram | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 200 milliliters | O | H2O
product | 1,3-bis(4-phenylethynylphenyl)-2-propanone | 14.5 grams | C1(=CC=CC=C1)C#CC1=CC=C(C=C1)CC(CC1=CC=C(C=C1)C#CC1=CC=CC=C1)=O | C31H22O
